US04863921
2-CHLORO-5a,6,7,8,9,9a-HEXAHYDRODIBENZOFURAN-4-CARBOXYLIC ACID
A mixture of 1.6 g of methyl 2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate in 10 ml of methanol and 20 ml of 1N sodium hydroxide is stirred at 50° C. for 6 hours. This is cooled, the methanol is removed under vacuo, diluted with 30 ml water and filtered. The aqueous solution is acidified with acetic acid, extracted with ethyl acetate, washed with water, dried over magnesium sulfate and evaporated to dryness to give crystalline product which is used directly in the next step.

reactant | methyl 2-chloro-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate | 1.6 g | ClC1=CC2=C(OC3C2CCCC3)C(=C1)C(=O)OC | C14H15ClO3
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 2-CHLORO-5a,6,7,8,9,9a-HEXAHYDRODIBENZOFURAN-4-CARBOXYLIC ACID | ClC1=CC2=C(OC3C2CCCC3)C(=C1)C(=O)O | C13H13ClO3
